US07812022B2
The title compound was prepared through standard displacement conditions by microwaving N-{3-[3-(2-chloropyrimidin-4-yl)-7-methylpyrazolo[1,5-a]pyridin-2-yl]phenyl}-2,6-difluorobenzamide and 3-trifluoromethylaniline in isopropanol at 150° C. for 15 min. LCMS (ESI): [M+H]+=601.

reactant | N-{3-[3-(2-chloropyrimidin-4-yl)-7-methylpyrazolo[1,5-a]pyridin-2-yl]phenyl}-2,6-difluorobenzamide | ClC1=NC=CC(=N1)C=1C(=NN2C1C=CC=C2C)C=2C=C(C=CC2)NC(C2=C(C=CC=C2F)F)=O | C25H16ClF2N5O
reactant | 3-trifluoromethylaniline | FC(C=1C=C(N)C=CC1)(F)F | C7H6F3N
solvent | isopropanol | C(C)(C)O | C3H8O
product | 2,6-Difluoro-N-{3-[7-methyl-3-(2-{[3-(trifluoromethyl)phenyl]amino}-pyrimidin-4-yl)pyrazolo[1,5-a]pyridin-2-yl]phenyl}benzamide | FC1=C(C(=O)NC2=CC(=CC=C2)C2=NN3C(C=CC=C3C)=C2C2=NC(=NC=C2)NC2=CC(=CC=C2)C(F)(F)F)C(=CC=C1)F | C32H21F5N6O
